US06069156
To a solution of methyl 3-nitro-4-(2-oxopentyl)benzoate (114 mg) in a mixture of tetrahydrofuran (1.5 ml), ethanol (1.5 ml) and water (2.1 ml) was added sodium hydrosulfite (3.0 g), and the mixture was stirred under reflux for 30 minutes. The resulting mixture was evaporated in vacuo, and the residue was diluted with ethyl acetate. The organic phase was washed with water and brine, dried over sodium sulfate and evaporated in vacuo. The residue was purified by thin layer chromatography with a mixture of hexane and ethyl acetate (2:1) to give methyl 2-propylindole-6-carboxylate (54.6 mg).

reactant | methyl 3-nitro-4-(2-oxopentyl)benzoate | 114 mg | [N+](=O)([O-])C=1C=C(C(=O)OC)C=CC1CC(CCC)=O | C13H15NO5
reactant | ethanol | 1.5 ml | C(C)O | C2H6O
reactant | water | 2.1 ml | O | H2O
reactant | sodium hydrosulfite | 3.0 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
product | methyl 2-propylindole-6-carboxylate | 54.6 mg | C(CC)C=1NC2=CC(=CC=C2C1)C(=O)OC | C13H15NO2
